US06255307B1
11. 2-{[Cyano-(2,3,5-trichlorophenyl)-methyl]-amino}-acetamidine Hydrobromide
Aminoacetamidine dihydrobromide (162.1 g, 0.774 mole) was added in portions to a solution of 2,3,5-trichlorobenzaldehyde (200.0 g, 0.851 mole) in methanol (2.43 litres) at room temperature. Once the addition was complete potassium cyanide (50.4 g, 0.774 mole) was added in one portion to the resulting mixture. The suspension was then stirred at 25° C. for 4 hours before being warmed to 50° C. The mixture is stirred at 50° C. for 24 hours. Methanol was then removed in vacuo, the resulting solid was slurried in water (1.5 litres) and ethyl acetate (2.5 litres) and collected by filtration. The solid was then dried in vacuo at 50° C. overnight to give the desired product. Yield 96.31 g (33.4%), 1H nmr (d-6 DMSO) δ/ppm 8.72 (3H, br, NH); 7.99 (1H, d, J 2.3 Hz, ArH); 7.79 (1H, d, J 2.3 Hz, ArH; 5.39 (1H, d, J 10.6 Hz, ArCH(CN)NH); 4.35 (1H, m, ArCH(CN)NH); 3.56 (2H, d, J 6.4 Hz, ArCH(CN)NHCH2C(═NH)NH2).

reactant | Aminoacetamidine dihydrobromide | 0.774 mole, 162.1 g | Br.Br.NCC(=N)N
reactant | 2,3,5-trichlorobenzaldehyde | 0.851 mole, 200.0 g | ClC1=C(C=O)C=C(C=C1Cl)Cl | C7H3Cl3O
reactant | potassium cyanide | 0.774 mole, 50.4 g | [C-]#N.[K+]
solvent | methanol | 2.43 litres | CO | CH4O
product | 2-{[Cyano-(2,3,5-trichlorophenyl)-methyl]-amino}-acetamidine Hydrobromide | Br.C(#N)C(C1=C(C(=CC(=C1)Cl)Cl)Cl)NCC(=N)N | InChI=1S/C10H9Cl3N4.BrH/c11-5-1-6(10(13)7(12)2-5)8(3-14)17-4-9(15)16;/h1-2,8,17H,4H2,(H3,15,16);1H
